US09062048B2
Step H: 2-(((Benzyloxy)carbonyl)(7-(trifluoromethyl)isoquinolin-1-yl)amino)acetic acid
A methanolic solution of methyl 2-(((benzyloxy)carbonyl)(7-(trifluoromethyl)isoquinolin-1-yl)amino)acetate (241 mg, 0.58 mmol) from above step G was cooled in an ice bath and treated with a solution of 1N NaOH (2.88 ml, 2.88 mmol). The solution was stirred for 4 h (monitored with TLC for completion), MeOH evaporated under vacuum (no heat), and the residue treated with 1N HCl and extracted with EtOAc. The EtOAc layer was washed with saturated NaCl, dry over Na2SO4 and evaporated to give the title compound.

reactant | methyl 2-(((benzyloxy)carbonyl)(7-(trifluoromethyl)isoquinolin-1-yl)amino)acetate | 0.58 mmol, 241 mg | C(C1=CC=CC=C1)OC(=O)N(CC(=O)OC)C1=NC=CC2=CC=C(C=C12)C(F)(F)F | C21H17F3N2O4
reactant | NaOH | 2.88 mmol, 1N, 2.88 ml | [OH-].[Na+]
solvent | MeOH | CO | CH4O
product | 2-(((Benzyloxy)carbonyl)(7-(trifluoromethyl)isoquinolin-1-yl)amino)acetic acid | C(C1=CC=CC=C1)OC(=O)N(CC(=O)O)C1=NC=CC2=CC=C(C=C12)C(F)(F)F | C20H15F3N2O4
